US07112595B2
A solution of N-[(2,5,6-trifluorobenzoyl)oxy]pyridine-2-carboximidamide (50 mg, 0.169 mmol) in pyridine (0.3 mL) was heated at 115° C. for 17 hours. Standard work up, and silica gel chromatography, afforded 9.5 mg (20%) of 3-(2-pyridyl)-5-(2,5,6-trifluorophenyl)-1,2,4-oxadiazole.

reactant | N-[(2,5,6-trifluorobenzoyl)oxy]pyridine-2-carboximidamide | 0.169 mmol, 50 mg | FC1=C(C(=O)ONC(=N)C2=NC=CC=C2)C(=C(C=C1)F)F | C13H8F3N3O2
solvent | pyridine | 0.3 mL | N1=CC=CC=C1 | C5H5N
product | 3-(2-pyridyl)-5-(2,5,6-trifluorophenyl)-1,2,4-oxadiazole | 9.5 mg, 20% | N1=C(C=CC=C1)C1=NOC(=N1)C1=C(C=CC(=C1F)F)F | C13H6F3N3O
